US04767882
To a suspension of lithium aluminum hydride (6.5 g; 0.171 mol) in tetrahydrofuran in a nitrogen atmosphere, a solution of 2-chloromethyl-1,1,4,4,6-pentamethyl1,2,3,4-tetrahydronaphthalene (40.9 g; 0.163 mol) in tetrahydrofuran was added dropwise, and the resultant mixture was stirred at 70° C. for 15 hours. The reaction mixture was treated with aqueous tetrahydrofuran, dilute hydrochloric acid was added thereto, and the resultant mixture was extracted with n-hexane. The extract was washed with saturated sodium chloride solution, dried over anhydrous sodium sulfate and concentrated to give 1,1,2,4,4,6-hexamethyl-1,2,3,4-tetrahydronaphthalene (31.6 g; 0.144 mol; 88%). B.P., 78° C./1.2 mmHg. M.P., 35°-36° C.

reactant | lithium aluminum hydride | 0.171 mol, 6.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-chloromethyl-1,1,4,4,6-pentamethyl1,2,3,4-tetrahydronaphthalene | 0.163 mol, 40.9 g | ClCC1C(C2=CC=C(C=C2C(C1)(C)C)C)(C)C | C16H23Cl
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1,1,2,4,4,6-hexamethyl-1,2,3,4-tetrahydronaphthalene | 0.144 mol, 31.6 g, 88% | CC1(C(CC(C2=CC(=CC=C12)C)(C)C)C)C | C16H24
